US07667041B2
Synthesis of (E)-1-acetyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one
Triethylamine (45 mL) was added to an ethanol (80 mL) solution of 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (3.0 g) and (1-acetyl-2-oxopyrrolidin-3-yl)triphenylphosphonyl bromide (8.4 g) synthesized by the method described in Journal of Medicinal Chemistry, vol. 30, No. 11, p. 1995, 1987. The reaction solution was made to react at 60° C. for 2 hours. The reaction solution was cooled to room temperature and was added to a mixed-solution of ethyl acetate and iced water. The deposited solids were dried under reduced pressure after separated by filtration, and 3.3 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | Triethylamine | 45 mL | C(C)N(CC)CC | C6H15N
reactant | ethanol | 80 mL | C(C)O | C2H6O
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 3.0 g | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (E)-1-acetyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one | 3.3 g | C(C)(=O)N1C(/C(/CC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C18H19N3O3
